US08563505B2
4-bromobiphenyl-2-carboxylic acid (5.71 g, 20.61 mmol) was dissolved in THF (50 mL) and cooled to 0° C. 1.0M borane tetrahydrofuran complex (41.2 mL, 41.2 mmol) was added dropwise over 15 min. and allowed to warm up to r.t. overnight. The reaction was diluted with EtOAc and washed with water, sat. ammonium chloride, and then brine. The organic layer was collected, dried over MgSO4, filtered and evaporated to give the crude product. The crude product was purified by flash chromatography on the Biotage (5-35% EtOAc:Hex) to give (4-bromobiphenyl-2-yl)methanol (3.5 g, 13.30 mmol, 65% yield) as a light orange oil. LCMS: rt=1.43 min.; Phenomenex-Luna C-18 (5μ) (3.0×50 mm); Solvent A=10% acetonitrile—90% water—0.1% TFA, Solvent B=90% acetonitrile—10% water—0.1% TFA; gradient 0% to 100% solvent B over 2 min. and then hold for 1 min.; 4 mL/min; inj. vol.=5 uL; wavelength=220. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 4.60 (d, J=5.77 Hz, 2H) 7.15 (d, J=8.28 Hz, 1H) 7.29-7.35 (m, 2H) 7.36-7.46 (m, 3H) 7.48 (dd, J=8.28, 2.01 Hz, 1H) 7.75 (d, J=2.01 Hz, 1H).

reactant | 4-bromobiphenyl-2-carboxylic acid | 20.61 mmol, 5.71 g | BrC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C13H9BrO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-bromobiphenyl-2-yl)methanol | 13.30 mmol, 3.5 g, 65% yield | BrC1=CC(=C(C=C1)C1=CC=CC=C1)CO | C13H11BrO
